US05110818
6.5 g (25.7 mmol) of 5-amino-2-chloro-4-[N-(2-fluorobenzyl)-amino]-pyrimidine are dissolved at room temperature in 65 ml of triethyl orthoformate. 30 mg of methanesulfonic acid are added to the solution and the reaction mixture is then stirred for 15 hours at room temperature. The reaction mixture is then concentrated by evaporation and the residue is chromatographed on silica gel with toluene/ethyl acetate (3:1) as eluant. The eluate is concentrated by evaporation and the residue obtained is recrystallised from dichloromethane/diethyl ether. In this manner 2-chloro-9-(2-fluorobenzyl)-9H-purine is obtained in the form of colourless crystals having a melting range of from 103° to 104°.

reactant | 5-amino-2-chloro-4-[N-(2-fluorobenzyl)-amino]-pyrimidine | 25.7 mmol, 6.5 g | NC=1C(=NC(=NC1)Cl)NCC1=C(C=CC=C1)F | C11H10ClFN4
reactant | methanesulfonic acid | 30 mg | CS(=O)(=O)O | CH4O3S
solvent | triethyl orthoformate | 65 ml | C(OCC)(OCC)OCC | C7H16O3
product | 2-chloro-9-(2-fluorobenzyl)-9H-purine | ClC1=NC=C2N=CN(C2=N1)CC1=C(C=CC=C1)F | C12H8ClFN4
